US08383658B2
3-(Pyridin-2-yl)-5-(pyridin-3-yl)isoxazole
The titled compound was prepared as the bishydrochloride salt according to Method CC using 5-iodo-3-(pyridin-2-yl)isoxazole [prepared as described by Ku, Y.-Y.; Grieme, T.; Sharma, P.; Pu, Y.-M.; Raje, P.; Morton, H.; King, S. Org. Lett. 2001, 3, 4185-4187] (136 mg, 0.5 mmol) and pyridin-3-ylboronic acid (Aldrich, 92 mg, 0.750 mmol). 1H NMR (300 MHz, DMSO-d6) d ppm 7.52-7.64 (m, 1H), 7.75-7.83 (m, 1H), 7.86 (s, 1H), 8.03 (td, J=7.7, 1.6 Hz, 1H), 8.11 (dt, J=7.9, 1.2 Hz, 1 H), 8.58 (dt, J=8.0, 1.9 Hz, 1H), 8.75-8.79 (m, 1H), 8.81 (dd, J=5.2, 1.6 Hz, 1H), 9.32 (d, J=2.4 Hz, 1H) ppm; MS (DCI/NH3) m/z 224 (M+H)+.

reactant | 5-iodo-3-(pyridin-2-yl)isoxazole | 0.5 mmol, 136 mg | IC1=CC(=NO1)C1=NC=CC=C1 | C8H5IN2O
reactant | pyridin-3-ylboronic acid | 0.750 mmol, 92 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | NH3 | N | H3N
product | 3-(Pyridin-2-yl)-5-(pyridin-3-yl)isoxazole | N1=C(C=CC=C1)C1=NOC(=C1)C=1C=NC=CC1 | C13H9N3O
